Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
Rectal sheath hematoma
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with h/o MVP s/p Mitraclip, chronic systolic/diastolic HF 
(EF not known), HTN, ___, Afib on warfarin, CAD, s/p L THR 
___ at ___ (during which time she received 2U 
PRBC transfusion and IV iron) transferred from ___ 
to ___ to ___ for rectal sheath hematoma.  She 
states she developed acute RLQ abdominal pain ___ and some 
firmness. This appears to be in an area of concurrent Lovenox 
injection.   No F, Ch, N/V, diarrhea, SOB, CP, LH, dizziness or 
syncope. Last BM ___.  Review of ___ and OSH ER records 
reveal following:

___          INR 1.52 (Warfarin 6mgmg
___ Hgb 7.7; INR 1.42 (Warfarin 7.5mg daily; Lovenox 80mg BID)
___          INR 1.74 (Warfarin 6mg daily; Lovenox 80mg BID)
___          INR 1.93 (Warfarin 6mg daily; Lovenox 80mg BID)
___          INR 2.59 (Warfarin 6mg daily; Lovenox 80mg BID)
___          INR 3.09 (Warfarin stopped; Lovenox 80mg BID 
continued)
___ Hgb 7.8  INR 2.49 (Warfarin 3mg givne; Lovenox stopped)

 
Past Medical History:
h/o MVP s/p Mitraclip
chronic systolic/diastolic HF (EF not known)
HTN
___ on warfarin
CAD
s/p L THR ___ at ___ (during which time she 
received 2U PRBC transfusion and IV iron)
 
Social History:
___
Family History:
Brother died brain tumor ___ (grieving)
Colon CA
 
Physical Exam:
T99.1 PO BP 147/76 HR 87 RR 20 SpO2 94 RA pain ___
Pleasant, cooperative in no distress
Anicteric, PERRLA
Neck supple, no ___, JVP flat
Lungs CTA bil w/o wheeze, crackles
COR (+) healed sternotomy scar, irregularly irregular, no 
audible murmurs
ABD RLQ hematoma palable w/o visible ecchymosis; no audible 
bruit; small bruise RLQ in area of recent injection, (+) bs, no 
HSM
EXT L knee bruised, trace pitting edema bilat
MSK L surgical sight C/D/I
SKIN no rashes
NERUO fluent speech, cognition, strength grossly normal in 
upper/lower extremities (gait not tested), no sensory deficits
 
Pertinent Results:
___ 04:20AM   WBC-7.7 RBC-2.70* HGB-8.2* HCT-26.4* MCV-98 
MCH-30.4 MCHC-31.1* RDW-17.0* RDWSD-58.2*
___ 09:58AM   HCT-25.3*
___ 04:20AM   GLUCOSE-102* UREA N-13 CREAT-0.9 SODIUM-137 
POTASSIUM-4.3 CHLORIDE-100 TOTAL CO2-23 ANION GAP-14
___ 04:20AM   PLT COUNT-279
___ 04:20AM   ___ PTT-36.1 ___

CT dated ___ demonstrates active extrav into a right rectus
sheath hematoma

 
Brief Hospital Course:
___ with h/o MVP s/p Mitraclip, chronic systolic/diastolic HF 
(EF not known), HTN, ___, Afib on warfarin, CAD, s/p L THR 
___ on Lovenox BID, admitted with right rectus sheath 
hematoma with active extrav on CT, in the area of recent lovenox 
injection.  Stable CBC and hemodynamics. Received VitK 10mg IV 
at 02:40AM on the day of admission. She was seen by ___ with no 
intervention such as embolization was indicated.  We followed 
her blood counts which started at 8.2, increased to 8.9 (which 
likely represented hemoconcentration since other cell lines were 
increased also) and repeated at 8.2.  She did not have any pain 
or expansion of hematoma in that area. On ___, her exam had 
improved and Hgb was 7.8.  This is consistent with no blood loss 
or expansion but slightly lower with phlebotomy.  She received 
Ferric Gluconate 125mg IV x1 and will receive oral iron as well 
as folate on discharge.  ___ recommended that she can restart her 
Warfarin on ___, but this was delayed to ___ for good 
measure.  We had extensive conversation about the risks and 
benefits of DVT PPx in this setting.  She agreed that Lovenox 
40mg once daily was beneficial.  This should only be continued 
until her INR is therapeutic and then can be discontinued.  

# Afib (CHADS2=3)
# Chronic combined ___ HF
# HTN
# Iron deficiency anemia
# CAD
# Depression

All stable on her previous medications.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. Citalopram 10 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Multivitamins 1 TAB PO DAILY 
5. Digoxin 0.125 mg PO DAILY 
6. Lisinopril 2.5 mg PO DAILY 
7. Metoprolol Succinate XL 100 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Potassium Chloride 10 mEq PO DAILY 
10. Senna 17.2 mg PO DAILY 
11. TraMADol 25 mg PO Q4H:PRN Pain - Moderate 
12. Warfarin 6 mg PO DAILY16 
13. potassium, sodium phosphates ___ mg oral BID 
14. Florastor (Saccharomyces boulardii) 250 mg oral BID 

 
Discharge Medications:
1.  Enoxaparin Sodium 40 mg SC DAILY 
Stop this when your INR is > 2.   
2.  Ferrous Sulfate 325 mg PO BID  
3.  FoLIC Acid 1 mg PO DAILY  
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  Citalopram 10 mg PO DAILY  
6.  Digoxin 0.125 mg PO DAILY  
7.  Docusate Sodium 100 mg PO BID  
8.  Florastor (Saccharomyces boulardii) 250 mg oral BID  
9.  Lisinopril 2.5 mg PO DAILY  
10.  Metoprolol Succinate XL 100 mg PO DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  Omeprazole 20 mg PO DAILY  
13.  Potassium Chloride 10 mEq PO DAILY 
Hold for K >  
14.  potassium, sodium phosphates ___ mg oral BID  
15.  Senna 17.2 mg PO DAILY  
16.  TraMADol 25 mg PO Q4H:PRN Pain - Moderate  
17.  Warfarin 6 mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Rectus sheath hematoma
Anemia secondary to inflammation and blood loss 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
You were admitted to the hospital with bleeding into the area 
near your stomach, known as a rectus sheath hematoma.  You were 
seen by our ___ doctors, but with stable blood counts, there was 
no need for any procedures or blood transfusions, but you did 
receive IV iron prior to discharge.  
We wish you the best in your continued recovery,
Your ___ Team 
 
Followup Instructions:
___